US06028223
To 1-chloro-3,5-dibromobenzene (Esprit) (20 g, 0.074 mole) in anhydrous ethyl ether (150 mL) in a flame dried flask under N2 and at -78° C. was added 1.6 m butyl lithium in hexane dropwise, keeping the temperature below -78° C., then warmed to -30° C. Anhydrous DMF (6.8 g, 0.092 mole) was added dropwise, keeping the temperature below -20° C. After the addition was complete, the reaction was slowly warmed to 0° C., then stirred overnight at room temperature. The reaction mixture was poured slowly into chilled 10% aqueous HCl (160 mL). After stirring for 15 minutes, the ether was separated, washed with H2O (4×), dried over MgSO4 and removed under vacuum to yield 3-bromo-5-chlorobenzaldehyde (13 g) as a white solid. MS and NMR were consistent with the desired structure.

reactant | 1-chloro-3,5-dibromobenzene | 0.074 mole, 20 g | ClC1=CC(=CC(=C1)Br)Br | C6H3Br2Cl
reactant | butyl lithium | C(CCC)[Li]
reactant | DMF | 0.092 mole, 6.8 g | CN(C)C=O | C3H7NO
reactant | HCl | 160 mL | Cl | ClH
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 3-bromo-5-chlorobenzaldehyde | 13 g | BrC=1C=C(C=O)C=C(C1)Cl | C7H4BrClO
